US09422331B2
A rt suspension of tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (134 mg, 269 μmol) in 4 M HCl in dioxane (1.35 ml) was stirred for 2.5 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration to provide (3S,4S)-3-amino-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile dihydrochloride (127 mg, quant.) as an off-white solid. MS m/z 398 (MH)+.

reactant | tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 269 μmol, 134 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | C29H31N5O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 1.35 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (3S,4S)-3-amino-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile dihydrochloride | 127 mg | Cl.Cl.N[C@H]1[C@@H](NC2=C(N(C1=O)CC1=C(C=NC3=CC=CC=C13)C1CC1)C=CC(=C2)C#N)C | InChI=1S/C24H23N5O.2ClH/c1-14-23(26)24(30)29(22-9-6-15(11-25)10-21(22)28-14)13-19-17-4-2-3-5-20(17)27-12-18(19)16-7-8-16;;/h2-6,9-10,12,14,16,23,28H,7-8,13,26H2,1H3;2*1H/t14-,23-;;/m0../s1
